US04316906
8.4 g. (0.024 mole) of (trans)-1-benzyloxycarbonyl-3-methylthio-D,L-proline are treated with 45 ml. of 4 N hydrobromic acid in acetic acid. After stirring for one hour at room temperature the solution is dried in vacuo. A small amount of water is added and this is washed twice with ether. The aqueous solution is applied to a column containing 300 ml. of an ion-exchange resin and water is passed through until the eluate is no longer strongly acidic. The product is then eluted with pH 6.5 (aqueous pyridine acetate) buffer. Fractions positive to ninhydrin are combined and lyophilized to give 3.4 g. (88%) of white fluff. A small sample of this material is crystallized from methanol to give (trans)-3-methylthio-D,L-proline; m.p. 196°-200° (dec.) (s. 192°).

reactant | (trans)-1-benzyloxycarbonyl-3-methylthio-D,L-proline | 0.024 mole | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C(=S)O)[C@@H](CC1)C | C14H17NO3S
reactant | hydrobromic acid | 4 N | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (trans)-3-methylthio-D,L-proline | C[C@H]1[C@@H](NCC1)C(=S)O | C6H11NOS
